US08957069B2
1-[2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-4-phenylpiperazine
By using 5-bromo-2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran (150 mg, 1.49 mmol) synthesized in Reference Example 157 and 1-phenylpiperazine (73.5 mg, 2.23 mmol), the reaction was carried out in the same manner as Example 129 to obtain 20 mg of the title compound as a colorless solid (yield 11%).

reactant | 5-bromo-2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 1.49 mmol, 150 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1)C)C1=CC=C(C=C1)C | C18H19BrO
reactant | 1-phenylpiperazine | 2.23 mmol, 73.5 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 1-[2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-4-phenylpiperazine | 20 mg, yield 11% | CC1(OC2=C(C1)C=C(C(=C2C)C2=CC=C(C=C2)C)N2CCN(CC2)C2=CC=CC=C2)C | C28H32N2O
